US08350099B2
Preparation of 2-(2-chloro-1,1,2-trifluoro-2-(1,1,2,3,3,3-hexafluoro-2-(perfluoropropoxy)propoxy)ethoxy)terephthalic acid
Dimethyl 2-(2-chloro-1,1,2-trifluoro-2-(1,1,2,3,3,3-hexafluoro-2-(perfluoropropoxy)propoxy)ethoxy)terephthalate as prepared in Example 3 (10.00 g, 0.0148 mol) was added to a solution of water (100 mL) and potassium hydroxide (KOH, 8.0 g) in a reaction flask. The resulting solution in the reaction flask was heated to reflux overnight, cooled to room temperature (about 25° C.) and then acidified by adding concentrated HCl to the reaction flask to achieve a pH of ˜1, determined by the formation of a precipitate in the reaction flask. The resulting precipitate was filtered and dried under vacuum. NMRs of this precipitate showed the desired material, 2-(2-chloro-1,1,2-trifluoro-2-(1,1,2,3,3,3-hexafluoro-2-(perfluoropropoxy)propoxy)ethoxy)terephthalic acid.

reactant | Dimethyl 2-(2-chloro-1,1,2-trifluoro-2-(1,1,2,3,3,3-hexafluoro-2-(perfluoropropoxy)propoxy)ethoxy)terephthalate | ClC(C(OC1=C(C(=O)OC)C=CC(=C1)C(=O)OC)(F)F)(OC(C(C(F)(F)F)(OC(C(C(F)(F)F)(F)F)(F)F)F)(F)F)F | C18H9ClF16O7
reactant | potassium hydroxide | 8.0 g | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | water | 100 mL | O | H2O
product | 2-(2-chloro-1,1,2-trifluoro-2-(1,1,2,3,3,3-hexafluoro-2-(perfluoropropoxy)propoxy)ethoxy)terephthalic acid | ClC(C(OC1=C(C(=O)O)C=CC(=C1)C(=O)O)(F)F)(OC(C(C(F)(F)F)(OC(C(C(F)(F)F)(F)F)(F)F)F)(F)F)F | C16H5ClF16O7
